US03933799
17-Acetoxy-11β-chloro-16β-methyl-21-propionyloxypregna-1,4-diene-3,20-dione
A solution of 17-acetoxy-11β-chloro-21-hydroxy-16β-methylpregna-1,4-diene-3,20-dione (67 mg.) in pyridine (1 ml.) at 0° was treated with propionyl chloride (0.03 ml.). After one hour, a little water was added and the solution was diluted with dilute hydrochloric acid. The precipitated solid was collected and recrystallized from methanol to give the title compound, m.p. 213°-215° (K), [α]D + 108.4° (c 0.6, chloroform) λmax 240 nm (ε 15,760) (Found: C, 65.9; H, 7.2. C27H35Cl O6 requires C, 66.0; H, 7.2).

reactant | 17-acetoxy-11β-chloro-21-hydroxy-16β-methylpregna-1,4-diene-3,20-dione | 67 mg | C(C)(=O)O[C@]1(C(CO)=O)[C@H](C[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)[C@H]3[C@H](C[C@]12C)Cl)=O)C | C24H31ClO5
reactant | propionyl chloride | 0.03 ml | C(CC)(=O)Cl | C3H5ClO
reactant | water | O | H2O
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
solvent | hydrochloric acid | Cl | ClH
product | 17-Acetoxy-11β-chloro-16β-methyl-21-propionyloxypregna-1,4-diene-3,20-dione | C(C)(=O)O[C@]1(C(COC(CC)=O)=O)[C@H](C[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)[C@H]3[C@H](C[C@]12C)Cl)=O)C | C27H35ClO6
